US06887889B2
To a stirred solution of 4-cyano-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester (1.95 g, 4.73 mmol) in CH2Cl2 (37.5 mL) at 0° C. was added TFA (12.5 mL). The mixture was stirred at room temperature for 3 h. TLC (4:1 hexanes/EtOAc) showed no starting material left. The solvent was removed by rotary evaporation and the resulting liquid was evaporated from toluene (2×20 mL), diluted with EtOAc (100 mL) and washed with 10% aqueous NaHCO3 (2×50 mL) and saturated brine (50 mL). The organic layer was dried over anhydrous Na2SO4, filtered and concentrated by rotary evaporation, dried under high vacuum for 1 h to yield 4-(4-iodo-phenyl)-piperidine-4-carbonitrile as a reddish solid (1.46 g, ˜4.7 mmol, ˜100%). 1H NMR (300 MHz, CDCl3): δ 7.82 (dd, 2H), 7.37 (dd, 2H), 3.25 (m, 4H), 2.15 (m, 4H).

reactant | 4-cyano-4-(4-iodo-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | 4.73 mmol, 1.95 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=C(C=C1)I)C#N | C17H21IN2O2
reactant | TFA | 12.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 37.5 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-iodo-phenyl)-piperidine-4-carbonitrile | ˜4.7 mmol, 1.46 g, ~100% | IC1=CC=C(C=C1)C1(CCNCC1)C#N | C12H13IN2
